reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3]([C:4](=[C:5](/[O:6][H:11])[H:14])\[H:13])/[H:12])[H:10])([H:7])([H:8])[H:9],60.12877446679961
[C:1]([H:7])([H:8])([H:9])[H:12].[C:2]1([C:5](=[O:6])[H:14])=[C:4]([H:13])[C:3]1([H:10])[H:11]>>[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],72.0745096387858
[C:1](=[O:2])([H:7])[H:9].[C:3](=[C:4]([O:5][H:8])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:1]([O:2][C:3]([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],47.31507873223969
[C:1]([C:2]([C:3](=[O:4])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[C:6]=[N:7][H:14])([H:15])[H:16]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],18.207492991440798
[N:1]1([H:8])[C:2]([H:9])([H:10])[C@@:3]1([C:5]#[N:6])[H:11].[O:4]([H:7])[H:12]>>[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],68.9937737669969
[C:1]1([H:8])([H:9])[C@:2]([C:3]#[N:4])([H:11])[C@@:5]1([O:6][H:10])[C:7]([H:12])([H:13])[H:14]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],65.18928538382511
[C:1]([N:4]([H:10])[H:11])([H:7])([H:8])[H:9].[N:2]#[C:3][C:5]#[N:6]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9],74.578112681823
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]1=[C:7]=[C:6]([H:13])[N:5]([H:12])[N:4]1[H:14])[H:11])([H:8])([H:9])[H:10],99.65702848734392
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]1[C@:6]([C:5]([H:15])([H:16])[H:17])([H:18])[O:7]1)[H:11])([H:8])([H:9])[H:10],110.716916866415
[C:1](=[C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:10].[H:9][H:14]>>[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],81.7098997724323
[N:1]1([H:6])[C:2]([H:7])=[C+:3][N:4]([H:8])[N-:5]1>>[n:1]1([H:6])[c:2]([H:7])[c:3]([H:8])[n:4][n:5]1,43.178366817736695
[C:1](=[N:2][C:3](=[N+:4]([H:11])[H:12])[C:5](=[O:6])[N-:7][H:14])([H:8])[H:10].[H:9][H:13]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],14.509071576180801
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[C:5]=[C:6]([H:12])[H:14])[H:13])[H:10])([H:7])([H:8])[H:9],80.9939792686485
[O:1]([C:2][C:3]([C:4]1([O:5][H:12])[C:6]([H:13])([H:14])[C:7]1([H:9])[H:15])([H:10])[H:11])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],36.488770281584785
[N:1](=[C:2]([O:3][C:4](=[O:5])[H:9])[N+:7]#[C-:6])[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],35.4647291261559
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[C:3](\[O:4][H:14])(=[C:5](/[C:6]#[N:7])[H:16])[H:13].[H:10][H:15]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],46.967986892389405
[O:1]([C@@:2]1([H:10])[C@:3]([C:4](=[O:5])[H:12])([H:11])[C:6]1=[C:7]([H:9])[H:13])[H:8]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],73.5962510827382
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]1=[C:7]([H:14])[C@:6]2([H:13])[N:4]1[N:5]2[H:12])[H:11])([H:8])([H:9])[H:10],97.2252124210123
[O:1]([C:2]1([N+:6]#[C-:5])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],38.05143108530821
[C:1]([C@@:2]1([H:10])[C:3]([H:12])=[C:4]1[C:5]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9].[O:6]([H:11])[H:16]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9],46.0824358553928
[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:7])=[C:3]([H:9])[C:4]([H:10])([H:11])[C@:5]1([O:6][H:8])[H:12],45.1557346752925
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C+:2]1[C:3]([H:11])([H:12])[C@:4]1([C-:5]([O:6][H:16])[H:14])[H:13])([H:7])([H:8])[H:9].[H:10][H:15],121.64483569055
[C:1]([C:2](/[C:3](=[C:4](\[C:5]([O:6][H:7])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])([H:14])[O:6]1,7.468958053859794
[C-:2](=[O+:3][C:4](=[O:5])[H:11])[H:9].[C:1]([H:6])([H:7])([H:8])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],11.796271813310028
